US07132539B2
Preparation of pyrrolidine-2-carboxylic acid {1-(4-fluorobenzyl)-2-[2-methoxy-methyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2-oxo-ethyl}-amide (68):
Crude 2-{1-(4-fluorobenzyl)-2-[2-methoxymethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2-oxo-ethylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester, 67, is dissolved in 4M hydrogen chloride in dioxane (10 mL) and stirred at room temperature for 1 hour. 1,2-dichloroethane (10 mL) is added. Removal of solvents in vacuo gives the crude hydrogen chloride salt of product which is then purified by preparative HPLC to afford 0.22 g (54% yield) of the desired product as the trifluoroacetate salt. A small amount of product is converted into free base by treating with NaHCO3 to obtain NMR spectra. 1H NMR (CDCl3, δ): 7.80–7.60 (m, 4H), 7.45–7.25 (m, 3H), 7.18–7.00 (m, 2H), 7.00–6.85 (m, 2H), 6.32–6.28 (m, 0.5H), 5.08–4.92 (m, 1H), 4.78–4.69 (,0.5H), 4.10 (d, J=13.0 Hz, 0.5H), 3.70–3.58 (m, 1H), 3.58–3.15 (m, 8H), 2.98–2.46 (m, 11H), 2.28–2.15 (m, 0.5H), 2.15–1.50 (m, 8H). HRFAB(positive) m/e 604.2399 calculated for C34H42FN5O4 (M+H)+, Found 604.3292.

reactant | 2-{1-(4-fluorobenzyl)-2-[2-methoxymethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2-oxo-ethylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC(C(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)COC)CC1=CC=C(C=C1)F)=O | C39H50FN5O6
reactant | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | hydrogen chloride | 4M | Cl | ClH
product | pyrrolidine-2-carboxylic acid {1-(4-fluorobenzyl)-2-[2-methoxy-methyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 0.22 g, 54% yield | FC1=CC=C(CC(C(=O)N2C(CN(CC2)C(CC2=CC3=CC=CC=C3C=C2)C(NC)=O)(OC)C)NC(=O)C2NCCC2)C=C1 | C34H42FN5O4
